US04269834
Using the method of Example VII, but substituting 2-cyano-6-methylpyridine for the 2-cyanopyridine and 2-methylbenzonitrile for the 4-chloro-2-methylbenzonitrile, there was obtained 1-amino-3-(6-methyl-2-pyridyl)-isoquinoline hydrochloride. The compound was crystallized from isopropyl alcohol. Melting point 263.5°-264.5° C.

reactant | 2-cyano-6-methylpyridine | C(#N)C1=NC(=CC=C1)C | C7H6N2
reactant | 2-cyanopyridine | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | 2-methylbenzonitrile | CC1=C(C#N)C=CC=C1 | C8H7N
reactant | 4-chloro-2-methylbenzonitrile | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
product | 1-amino-3-(6-methyl-2-pyridyl)-isoquinoline hydrochloride | Cl.NC1=NC(=CC2=CC=CC=C12)C1=NC(=CC=C1)C | InChI=1S/C15H13N3.ClH/c1-10-5-4-8-13(17-10)14-9-11-6-2-3-7-12(11)15(16)18-14;/h2-9H,1H3,(H2,16,18);1H
